US04221794
9-(2-HYDROXY-1-PROPYL)ADENINE (NPT 15431)
9-(2-Hydroxy-1-propyl)-6-chloropurine (I, 9 g, 42.5 mmol) was dissolved in saturated methanolic ammonia and ammonium chloride (50 mg). The mixture was heated at 130° in a bomb for 6 hr. The resulting solution was evaporated to dryness and recrystallized from ethanol/acetone. Yield=6.68 g of a colorless crystalline product (81%) mp 193°-194° uv (H2O; pH 5.5) λmax 260 nm TLC in CHl3 :MeOH (5:1) Rf 0.44

reactant | 9-(2-Hydroxy-1-propyl)-6-chloropurine | 42.5 mmol, 9 g | OC(CN1C2=NC=NC(=C2N=C1)Cl)C | C8H9ClN4O
reactant | ammonia | N | H3N
solvent | ammonium chloride | 50 mg | [Cl-].[NH4+]
product | 9-(2-HYDROXY-1-PROPYL)ADENINE | OC(CN1C2=NC=NC(=C2N=C1)N)C | C8H11N5O
